US05849757
(3R)-Ethyl 1-[(R)-1-phenylethyl]pyrrolidine-3-acetate described in U.S. Pat. No. 621,101 is allowed to react with benzyl chlorocarbonate to give (3R)-ethyl 1-benzyloxycarbonylpyrrolidine-3-acetate.

reactant | (3R)-Ethyl 1-[(R)-1-phenylethyl]pyrrolidine-3-acetate | C1(=CC=CC=C1)[C@@H](C)N1C[C@H](CC1)CC(=O)OCC | C16H23NO2
reactant | benzyl chlorocarbonate | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
product | (3R)-ethyl 1-benzyloxycarbonylpyrrolidine-3-acetate | C(C1=CC=CC=C1)OC(=O)N1C[C@H](CC1)CC(=O)OCC | C16H21NO4
